US08309581B2
1-Cyclohexylmethyl-2-(2-cyclopropylmethoxy-pyridin-3-yl)-5,6-difluoro-1H-benzoimidazole
The title compound was prepared in analogy to Example 1, from 2-(2-chloro-pyridin-3-yl)-1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazole (Example 1, intermediate a) and cyclopropyl-methanol (CAS Reg. No. 2516-33-8). Colorless semi-solid (16%). MS (Turbo Spray): m/z=398.3 (M+H).

reactant | 2-(2-chloro-pyridin-3-yl)-1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazole | ClC1=NC=CC=C1C1=NC2=C(N1CC1CCCCC1)C=C(C(=C2)F)F | C19H18ClF2N3
reactant | cyclopropyl-methanol | C1(CC1)CO | C4H8O
product | 1-Cyclohexylmethyl-2-(2-cyclopropylmethoxy-pyridin-3-yl)-5,6-difluoro-1H-benzoimidazole | C1(CCCCC1)CN1C(=NC2=C1C=C(C(=C2)F)F)C=2C(=NC=CC2)OCC2CC2 | C23H25F2N3O
